US07645776B2
N-(5-Cyano-pyridin-2-yl)-acetamide
8 mmol of 6-Amino-nicotinonitrile were dissolved in THF. 2 eq of DIPEA were added. The reaction mixture was cooled to 0° C. and 1.0 eq of acetylchloride in THF added dropwise and the reaction stirred for 2 h. The product was isolated by extraction from ethylacetate/water.

reactant | 6-Amino-nicotinonitrile | 8 mmol | NC1=NC=C(C#N)C=C1 | C6H5N3
reactant | DIPEA | 2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | acetylchloride | 1.0 eq | C(C)(=O)Cl | C2H3ClO
reactant | ethylacetate water | C(C)OC(C)=O.O
solvent | THF | C1CCOC1 | C4H8O
product | N-(5-Cyano-pyridin-2-yl)-acetamide | C(#N)C=1C=CC(=NC1)NC(C)=O | C8H7N3O
